Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
postive blood culture
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ year old man with history of relapsed AML 
treated with multiple rounds chemotherapy and MRD alloHSCT with 
MAC (D0 ___ complicated by steroid-refractory GI-GVHD, C. 
difficile colitis, CMV viremia, and recent VRE/E.coli bacteremia
with recent admission with multifocal pneumonia, progressive 
cavitary pulmonary nodules, and worsening lower extremity edema 
found to have aspergillosis despite prophylaxis with 
posaconazole with adequate levels, treated with isavuconazole. 
He
now presents for direct admission given positive blood cultures.

Upon arrival to the floor, he states that overall since his
discharge from the hospital on ___ he has been doing well. He
notes a chronic ongoing cough that has improved since his
discharge. He denies any fever, chills, abdominal pain, nausea,
or vomiting. He notes abdominal discomfort with associated pain
with urination and urinating frequently over the last few days.
He notes that his diarrhea has resolved and his stools are now
"solid." He is no longer taking loperamide PRN that he was
prescribed at time of his recent discharge, given resolution of
his diarrhea. 

He endorses a great appetite and believes he has gain a few
pounds since discharge. He notes stable lower extremity edema
that improves with leg elevation. He states taht his PICC in the
right upper extremity was removed several days ago, though per
OMR note PICC was removed on ___. He denies any rash in 
this
area, or other areas, or areas of skin breakdown. He denies any
orthopnea or PND. He has been doing work around the house
including laundry without exertional dyspnea or other symptoms.
He has been stretching daily at home and performing bicep curls.
He brings with him medications from home including Jakafi and
cresemba. He is accompanied by his daughter.  

Of note, he was admitted to the hospital on ___ with VRE and
E. Coli bacteremia thought to be secondary to translocation,
treated with IV ceftriaxone and daptomycin until ___.

Review of Systems:  
(+) Per HPI.
Denies fever, chills, night sweats, headache, vision changes,
rhinorrhea, congestion, sore throat, shortness of breath, chest
pain, abdominal pain, nausea, vomiting, diarrhea, constipation,
BRBPR, melena, hematochezia, hematuria. 

 
Past Medical History:
ONCOLOGIC HISTORY:
___ INITIAL BMBX  AML
___ Consented to  protocol ___  INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2)  (RHP: +NPM1, +IDH2,+ RAD21)
___  D+14 BMBx ablated, 
___  D+26 remission, NPM1 negative
___ C1D1 HIDAC
___ admitted for fever
___ CT showed perianal abscess, drained, improved with
antibiotics
___ - C2D1 HIDAC, complicated by fevers and rash after 4 
of 6 doses attributed to possible cytarabine syndrome, all
resolved with higher dexamethasone premedication. also received
neulasta on D9
___ - C3D1 HIDAC, complicated by neutropenic fever, 
empiric antibiotics without complications or infectious source
___ - taken off of active study protocol (control arm) due
to patient preference to avoid frequent visits and tests;
consented to be followed by the study for survival/outcome data
___ - initiation of therapy for relapsed AML on trial
___
----lenalidomide 50 mg D1-10
----MEC D4-8
___ - admitted for alloHSC transplant
- Flu/Bu ablation chemotherapy ___
- Allogeneic stem cell transplant ___
- Discharged ___ - Bone marrow biopsy w/no morphologic evidence of AML,
negative NPM1 and myeloid sequencing panels
---- COMPLICATIONS: neutropenic fever, c.diff colitis, SCoN
bacteremia, ___ abscess, steroid-refractory GI-GVHD, C. 
difficile colitis, CMV viremia, and recent VRE/E.coli bacteremia 


PAST MEDICAL HISTORY:
- Recurrent clostridioides colitis
- genital warts
- Hernia s/p mesh ___ years ago

 
Social History:
___
Family History:
Mother had lung cancer
Father had some type of metastatic cancer extensively involving
the bones
No history of any hematologic disorders including leukemia or
lymphoma
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=================================== 
Vitals: ___ 1441 Temp: 98.4 PO BP: 134/87 HR: 104 RR: 18 O2
sat: 100% O2 delivery: Ra 
Gen: walking around the room, unpacking his bag, no acute
distress
NEURO: A&Ox3.
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: JVP not elevated
LYMPH: No cervical or supraclav LAD
CV: Nl rate, regular rhythm. No MRG.   
LUNGS: No incr WOB. Scattered faint crackles in bilateral lung
fields. No wheezes, rales, or rhonchi.  
ABD: ND, nl bowel sounds, tender to palpation in the suprapubic
region 
EXT: warm and well-perfused. 1+ edema to the shins bilaterally
SKIN: Right upper extremity with areas of ecchymosis in the
entecubital fossae. No rash or erythema noted.

DISCHARGE PHYSICAL EXAM
See flow sheets for vitals
GEN: Pleasant. NAD
NEURO: A&Ox3, non-focal
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple. JVP not elevated
LYMPH: No cervical or supraclavicular LAD
CV: Nl rate, regular rhythm. No MRG.   
LUNGS: No incr WOB. CTA
fields. No wheezes, rales, or rhonchi.  
ABD: ND, nl bowel sounds. Tenderness to palpation in the
suprapubic region has now resolved 
EXT: WWP. 1+ edema to the shins bilaterally
SKIN: Right upper extremity with areas of ecchymosis in the
entecubital fossae. No rash or erythema.

 
Pertinent Results:
ADMISSION LABS
====================

___ 03:29PM   PLT SMR-VERY LOW* PLT COUNT-56*
___ 03:29PM   ANISOCYT-1+* POIKILOCY-1+* MACROCYT-1+* 
MICROCYT-1+* POLYCHROM-1+* SCHISTOCY-1+* RBCM-SLIDE REVI
___ 03:29PM   NEUTS-42 BANDS-4 ___ MONOS-4* EOS-0* 
___ METAS-6* MYELOS-5* NUC RBCS-1.6* AbsNeut-1.70 
AbsLymp-1.44 AbsMono-0.15* AbsEos-0.00* AbsBaso-0.00*
___ 03:29PM   WBC-3.7* RBC-2.30* HGB-7.8* HCT-24.7* 
MCV-107* MCH-33.9* MCHC-31.6* RDW-23.1* RDWSD-89.4*
___ 03:29PM   CALCIUM-8.0* PHOSPHATE-3.3 MAGNESIUM-1.3*
___ 03:29PM   ALT(SGPT)-33 AST(SGOT)-26 LD(LDH)-526* ALK 
PHOS-99 TOT BILI-0.2
___ 03:29PM   UREA N-18 CREAT-0.7 SODIUM-143 POTASSIUM-3.9 
CHLORIDE-107 TOTAL CO2-25 ANION GAP-11
___ 01:50PM   PLT SMR-VERY LOW* PLT COUNT-41*
___ 01:50PM   ANISOCYT-2+* POIKILOCY-1+* POLYCHROM-1+* 
OVALOCYT-1+* SCHISTOCY-1+* ACANTHOCY-1+* RBCM-SLIDE REVI
___ 01:50PM   NEUTS-53 BANDS-5 ___ MONOS-11 EOS-0* 
BASOS-0 ___ METAS-3* MYELOS-0 NUC RBCS-1.5* OTHER-0 
AbsNeut-1.97 AbsLymp-0.95* AbsMono-0.37 AbsEos-0.00* 
AbsBaso-0.00*
___ 01:50PM   WBC-3.4* RBC-2.09* HGB-7.0* HCT-22.3* 
MCV-107* MCH-33.5* MCHC-31.4* RDW-22.4* RDWSD-87.8*
___ 01:50PM   CALCIUM-7.8* PHOSPHATE-3.8 MAGNESIUM-1.2*
___ 01:50PM   ALT(SGPT)-32 AST(SGOT)-25 LD(LDH)-510* 
CK(CPK)-34* ALK PHOS-92 TOT BILI-0.2
___ 01:50PM   estGFR-Using this
___ 01:50PM   UREA N-18 CREAT-0.8 SODIUM-145 POTASSIUM-3.6 
CHLORIDE-108 TOTAL CO2-23 ANION GAP-14
___ 02:37PM URINE  MUCOUS-OCC*
___ 02:37PM URINE  RBC-19* WBC-7* BACTERIA-NONE YEAST-NONE 
EPI-0 TRANS EPI-<1
___ 02:37PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NORMAL PH-6.0 
LEUK-NEG
___ 02:37PM URINE  COLOR-Straw APPEAR-Clear SP ___

MICROBIOLOGY STUDIES
==========================
ENTEROCOCCUS SP..    PRELIMINARY SENSITIVITY. 
SENSITIVITIES: MIC expressed in MCG/ML
      ____________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------       R
VANCOMYCIN------------       R

Anaerobic Bottle Gram Stain (Final ___: 
GRAM POSITIVE COCCI IN PAIRS AND IN SHORT CHAINS. 
      
Aerobic Bottle Gram Stain (Final ___: 
GRAM POSITIVE COCCI IN PAIRS AND IN SHORT CHAINS.

IMAGING STUDIES
=======================
CT CHEST ___: Complete resolution of the multi-focal
pneumonia described immediate prior study. Short interval 
density
and mild size increase in multiple bilateral peribronchovascular
solid and cavitating nodules as well as appearance of a new
nodule in the left lower lobe. Non-resolving and new nodules
following treatment and the short interval progression raises 
concern for
lung involvement from primary disease. Tissue sampling is
strongly recommended to rule out this possibility. 

CT A/P ___: No acute findings within the abdomen or pelvis. 

Interval improvement in previously demonstrated diffuse colonic
wall thickening with some persistent areas in the descending and
sigmoid colon. Mild thickening of the terminal ileum is overall
unchanged. Questionable asymmetric thickening of the right
lateral bladder wall. Recommend correlation with urinalysis.
Peripheral triangular hyperdensities throughout both kidneys
which may represent retained contrast from prior study on ___
due to renal dysfunction 

DISCHARGE LABS:
___ 09:43AM BLOOD WBC-3.8* RBC-2.69* Hgb-9.2* Hct-28.5* 
MCV-106* MCH-34.2* MCHC-32.3 RDW-21.7* RDWSD-83.8* Plt Ct-53*
___ 09:43AM BLOOD WBC-3.8* RBC-2.69* Hgb-9.2* Hct-28.5* 
MCV-106* MCH-34.2* MCHC-32.3 RDW-21.7* RDWSD-83.8* Plt Ct-53*
___ 09:43AM BLOOD Neuts-62 Bands-4 ___ Monos-6 Eos-0* 
___ Metas-3* Myelos-3* NRBC-1.1* AbsNeut-2.51 AbsLymp-0.84* 
AbsMono-0.23 AbsEos-0.00* AbsBaso-0.00*
___ 09:43AM BLOOD Glucose-107* UreaN-8 Creat-0.7 Na-133* 
K-4.1 Cl-93* HCO3-25 AnGap-15
___ 09:43AM BLOOD ALT-24 AST-22 LD(LDH)-539* AlkPhos-110 
TotBili-0.2
___ 09:43AM BLOOD Albumin-3.2* Calcium-8.2* Phos-4.1 Mg-1.9
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with history of relapsed AML 
treated with multiple rounds chemotherapy and MRD allogeneic 
HSCT (D0 ___ complicated by steroid-refractory GI-GVHD, C. 
difficile colitis, CMV viremia, recent VRE bacteremia, E.coli 
bacteremia (thought to be ___ GI translocation, treated with IV 
ceftriaxone and daptomycin until ___ and multifocal 
pneumonia with progressive cavitary pulmonary nodules and 
worsening lower extremity edema found to have aspergillosis 
despite adequate levels of posaconazole prophylaxis treated now 
with isavuconazole. He presents for direct admission for GPC 
bacteremia speciated to VRE bacteremia.
SSESSMENT & PLAN: Mr. ___ is a ___ year old male with history
of relapsed AML treated with multiple rounds chemotherapy and 
MRD
allogeneic HSCT (D0 ___ complicated by steroid-refractory
GI-GVHD, C. difficile colitis, CMV viremia, recent VRE
bacteremia, E.coli bacteremia (thought to be ___ GI
translocation, treated with IV ceftriaxone and daptomycin until
___ and multifocal pneumonia with progressive cavitary
pulmonary nodules and worsening lower extremity edema found to
have aspergillosis despite adequate levels of posaconazole
prophylaxis treated now with isavuconazole. He presents for
direct admission for ___ bacteremia speciated to VRE bacteremia.

ACTIVE ISSUES
========================

#VRE BSI: Unclear source but suspect GI given presenting 
symptoms
(abdominal discomfort, dysuria, and urinary frequency). We
obtained a CT A/P to evaluate for GI pathology and it showed no
acute intra-abdominal process but noted asymmetric thickening of
the right lateral bladder wall as well as stable abnormalities.
UA did not show gross hematuria and pyuria but will obtain BK 
PCR
per urine and serum as well as correlative cytopathology. Of
note, BK urine ___ was markedly elevated (___) so 
may
be potential GI culprit. Pulmonary source is also possible but 
CT
Chest ___ showed resolution of multifocal pneumonia though
noted possible worsening of known cavitary pulmonary nodules.
Prior history of enterococcus faecium bacteremia was resistant 
to
ampicillin, penicillin, and vancomycin. Started on daptomcycin 
(received x1 dose on ___ but per ID
recommendations, we started linezolid ___ mg Q12 hours pending
sensitivity results.  When these became available transitioned 
back to 
dapto given risk of count suppression on linezolid.  There were 
no vegetations on TTE.  
Plan to continue Daptomycin 10 mg/kg IV Q24h for at least 14 day 
course
from date of first negative cultures ___ require 
longer course
given recurrent infection.  
-Appreciate ID recommendations

#RECENT MULTIFOCAL PNEUMONIA AND CAVITARY PULMONARY NODULES:
Patient is currently being treated with isavuconazole given c/f
aspergillus. Recent BAL ___ growing mold (described as a
contaminant but ID concerned about true mold infection). Repeat
chest CT ___ shows complete resolution of multifocal
pneumonia. Chest CT also shows short interval density and mild
size increase in multiple bilateral peribronchovascular solid 
and
cavitating nodules as well as appearance of a new nodule in the
left lower lobe with concern for lung involvement from primary
disease. In close discussion with ID, felt no need to pursue
biopsy and/or change antifungal therapy.  
-Continue isavuconazole 372mg daily
-Appreciate ID recommendations

#AML s/p allogeneic MRD HSCT (Day 0 = ___: 
#THROMBOYCTOPENIA:
AML initially with favorable mutational profile (normal
karyotype; FLT3 negative, NPM1 positive, IDH2 positive, RAD21
positive, CEBPA negative). He relapsed after chemo-consolidation
(7+3, 3C HIDAC & MEC/Revlimid) then underwent an MRD allogeneic
SCT as above. In remission following his transplant with slow
count recovery most likely due to valganciclovir. BMBX during
recent admission showed no evidence of recurrence w/ 100%
chimerism. His immunosuppression agents are:
-Continue Tacrolimus 0.5mg BID; No
adjustments in light of starting Jakafi. 
-Continue ruxolitinib 5mg PO BID
-Continue prednisone 10mg PO QD, tapering while on Jakafi
-Continue Valganciclovir 900mg PO QD; no need for ACV. CMV VL 
neg
could change to ACV. 
-Continue Bactrim SS PO QD
- f/u LENIs (potential source) 

CHRONIC ISSUES
========================

#MASSIVE ANASARCA: Prior LENIs without DVT. Repeat in setting of
infection.  Attributed to multifactorial low albumin due to
GI-GVHD and side effect of steroids. Improved with diuresis and
reduction in prednisone dosing. Significantly improved since 
most
recent admission. 

#GI GVHD: Remains on tacrolimus, prednisone, budesonide and 
Jakafi as above.   
-Continue ID prophylaxis with bactrim
-Continue PPI, vitamin D and folic acid supplementation

#CMV VIREMIA: He continues on valgancyoclovir 900 mg daily until
follow up with ID for full course duration to be determined 
-CMV vL ___ PND. If neg consider changing to ACV. 

#RECURRENT C-Diff COLITIS: Recent completion of oral vancomycin
___ with no further diarrhea. Of note, patient received 
fidaxomicin and dose of bezlotoxumab for prior treatment. 
-Trend for diarrhea recurrence. 

#PRIOR VRE & E.coli BACTEREMIA: He completed a course of
daptomycin and ceftriaxone for E. coli bacteremia, completed on
___. Both bacteremia attributed to a likely GI source
(microperforation or permeability of the bowel mucosa). See 
above
regarding new infection. 

#NICOTINE DEPENDENCE: nicotine patch while inpatient.  
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isavuconazonium Sulfate 372 mg PO DAILY 
2. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
3. PredniSONE 10 mg PO DAILY 
4. Budesonide 3 mg PO TID 
5. FoLIC Acid 1 mg PO DAILY 
6. LORazepam 1 mg PO BID: PRN anxiety 
7. multivitamin 1 tablet oral daily 
8. Pantoprazole 40 mg PO Q12H 
9. Nicotine Patch 21 mg/day TD DAILY 
10. ruxolitinib 5 mg oral BID 
11. Tacrolimus 0.5 mg PO Q12H 
12. ValGANCIclovir 900 mg PO Q24H 
13. Vitamin D ___ UNIT PO 1X/WEEK (WE) 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
2.  Daptomycin 740 mg IV Q24H bacteremia  
3.  Budesonide 3 mg PO TID  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Isavuconazonium Sulfate 372 mg PO DAILY  
6.  LORazepam 1 mg PO BID: PRN anxiety  
7.  multivitamin 1 tablet oral daily  
8.  Nicotine Patch 21 mg/day TD DAILY  
9.  Pantoprazole 40 mg PO Q12H  
10.  PredniSONE 10 mg PO DAILY  
11.  ruxolitinib 5 mg oral BID  
12.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
13.  Tacrolimus 0.5 mg PO Q12H  
14.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses
======================
VRE Bacteremia
Cavitary pulmonary nodules secondary to aspergillosis

SECONDARY DIAGNOSIS
======================
-Acute myelogenous leukemia
-Graft versus host disease
-CMV reactivation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted due to concern for blood stream infection. We 
did extensive infectious workup which showed bacteremia. We 
started you on antibiotics and your infection has cleared. You 
will continue on antibiotics as instructed. Please continue to 
take all of your medications as instructed.

Sincerely, 
Your ___ TEAM
 
Followup Instructions:
___